data/rdb19/train.csv
rxn,smiles,ea
5486,[C:1]([C:2]([C:3]([H:4])([O:5][C:6](=[O:7])[C:8]([H:14])([H:15])[H:16])[C:20]([N:19]([C:18](=[C:17]([H:22])[H:23])[H:24])[H:25])([O:21])[H:26])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:17](=[C:18]([N:19][H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])([O:5][C:6](=[O:7])[C:8]([H:14])([H:15])[H:16])[C:20](=[O:21])[H:26])([H:12])[H:13])([H:9])([H:10])[H:11],3.187362658791244
4824,[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])[H:7])[H:11])([H:8])([H:9])[H:10]>>[C:18]([H:31])([H:32])[H:33].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])([H:7])[C:17]([C:16]([C:15]([H:25])([H:26])[H:27])([H:28])[H:29])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])[H:11])([H:8])([H:9])[H:10],66.5580807106453
1679,[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[N:8]([H:13])[H:14])([H:9])([H:10])[H:11].[H:12][C:18]1([H:26])[C:17]([C:16](=[C:15]([H:23])[H:24])[H:25])[C:22]([H:30])=[C:21]([H:29])[C:20]([H:28])=[C:19]1[H:27],34.12471939314855
1776,[C:15]([O:16][C:17](=[O:18])[C:19](=[C:20]([H:25])[H:26])[C:21]([H:27])([H:28])[H:29])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10].[H:12][C:17]([O:16][C:15]([H:22])([H:23])[H:24])([O:18])[C:19](=[C:20]([H:25])[H:26])[C:21]([H:27])([H:28])[H:29],50.96589138166746
120,[C:12]([C:13]([C:14]([C:15]([H:24])([H:25])[H:26])([O:16][C:17]([H:27])([H:28])[H:29])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:17]([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[O:16][C:14]([C:13]([C:12]([H:18])([H:19])[H:20])([H:21])[H:22])([C:15]([H:24])([H:25])[H:26])[H:23])([H:6])([H:7])[H:8],63.15026628202759
1294,[O:10]([O:11])[H:12].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[H:6][O:10][H:12].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[O:11],90.2078794942936
824,[C:19]([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])[H:11])([H:8])([H:9])[H:10].[H:12][C:19]([H:20])([H:21])[H:22],18.939902419399004
609,[C:18]([O:19][O:20])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:5](=[O:6])[O:7][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:14])([H:15])([H:16])[O:20][O:19][C:18]([H:21])([H:22])[H:23],63.14531239238568
3642,[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])=[C:5]([H:6])[H:7])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:19]([C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])([C:20]([H:30])([H:31])[H:32])[H:29].[N:21]([C:22](=[O:23])[H:34])[H:33],85.05072911136085
4985,[C:15](=[C:16]([N:17]([C:18](=[O:19])[H:24])[H:23])[H:22])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9].[H:11][C:18]([N:17]([C:16](=[C:15]([H:20])[H:21])[H:22])[H:23])([O:19])[H:24],45.23285817401484
3746,[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:17]([C:18]([C:19]([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2](=[C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[H:11][C:20]([H:30])([H:31])[H:32],77.84414656902663
4033,[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])[H:10])([H:11])([H:12])[H:13].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])([H:10])[H:28])([H:11])([H:12])[H:13].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])[H:29],25.61434702441329
